US05726172
To a stirred solution of methyl 4-[N-Boc-cis-1-amino-4-cyclohexanoyloxy]-2-methoxybenzoate (220 mg, 0.52 mmol) in THF:H2O (5 mL: 1 mL) was added LiOH.H2O (67.6 mg, 1.59 mmol). The reaction was heated to 45° C. over 12 h and then cooled to ambient temperature. The solvent was removed under reduced pressure. The crude solid passed through a plug of silca gel packed in 50:50 MeOH:CH2Cl2 and eluted with same. The solvent was removed under reduced pressure to afford 4-[N-Boc-cis-1-amino-4-cyclohexanoyloxy]-2-methoxybenzoic acid as a white solid.

reactant | methyl 4-[N-Boc-cis-1-amino-4-cyclohexanoyloxy]-2-methoxybenzoate | 0.52 mmol, 220 mg | C(=O)(OC(C)(C)C)N[C@@H]1CC[C@@H](CC1)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C21H29NO7
reactant | H2O | 5 mL | O | H2O
reactant | LiOH.H2O | 1.59 mmol, 67.6 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
product | 4-[N-Boc-cis-1-amino-4-cyclohexanoyloxy]-2-methoxybenzoic acid | C(=O)(OC(C)(C)C)N[C@@H]1CC[C@@H](CC1)C(=O)OC1=CC(=C(C(=O)O)C=C1)OC | C20H27NO7
